US09376442B2
4-[2-(Cyclopropylmethoxy)-5-methylphenyl]-N-{1-[(2S)-2-hydroxypropanoyl]piperidin-4-yl}-2,6-dimethyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f57) and commercially available (2S)-1-chloro-1-oxopropan-2-yl acetate the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-5-methylphenyl]-2,6-dimethyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=C(N1)C)C(=C(N2)C)C(=O)NC2CCNCC2
reactant | (2S)-1-chloro-1-oxopropan-2-yl acetate | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | 4-[2-(Cyclopropylmethoxy)-5-methylphenyl]-N-{1-[(2S)-2-hydroxypropanoyl]piperidin-4-yl}-2,6-dimethyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)C)C=1C2=C(N=C(N1)C)C(=C(N2)C)C(=O)NC2CCN(CC2)C([C@H](C)O)=O | C28H35N5O4
